US07947684B2
A. 3-(Piperidin-4-yl)-benzonitrile
A solution of lithium diisopropylamine (54 mmol) in anhydrous tetrahydrofuran (50 ml) at −78° C. is treated dropwise with a solution of benzyl 4-oxo-1-piperidinecarboxylate (11.4 g, 49 mmol) in anhydrous tetrahydrofuran (50 ml). The reaction mixture is then stirred a further 20 min. at −78° C. and treated with a solution of N-phenyltrifluoromethanesulfonimide (19.26 g, 54 mmol) in anhydrous tetrahydrofuran (55 ml). The resultant orange suspension is warmed to 0° C. and stirred for 2 hours before being concentrated under vacuum. The residue is chromatographed on silica gel (CH2Cl2) to yield benzyl 1,2,3,6-tetrahydro-4-(trifluoromethylsulphonyloxy)-pyridine-1-carboxylate as a yellow oil (11.34 g). A portion of this material (3.65 g, 10 mmol) is dissolved in anhydrous 1,2-dimethoxyethane (30 ml) and treated with 3-cyanophenyl boronic acid (1.47 g, 10 mmol), lithium chloride (1.27 g, 30 mmol), 2.0 M aqueous sodium carbonate (10 ml) and palladium tetrakistriphenylphosphine (0.73 g, 0.6 mmol). The reaction mixture is heated at reflux for 2.5 hours, cooled and concentrated under vacuum. The residue is partitioned between dichloromethane (2×100 ml) and 2.0M aqueous sodium carbonate (100 ml) containing conc ammonium hydroxide (6 ml). The combined organic extracts are dried (magnesium sulfate), concentrated under vacuum and the resultant oil is chromatographed on silica gel (ethyl acetate/pentane 2:5) to yield a yellow oil (2.31 g). This material is dissolved in ethanol (70 ml), treated with 10% palladium on carbon (1.0 g) and stirred at ambient temperature under an atmosphere of hydrogen for 5 hours. The reaction mixture is filtered through a short pad of hyflo and concentrated under vacuum to give the title compound as a colourless oil (1.26 g). 1H NMR (CDCl3, 500 MHz) δ9.78 (br m, 1H), 7.50 (m, 4H), 4.49 (br m, 1H), 3.65 (br m, 1H), 3.00 (m, 2H), 2.82 (m, 1H), 2.21-1.75 (m, 4H). EI MS M++H: 187.

reactant | 3-cyanophenyl boronic acid | 10 mmol, 1.47 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | lithium chloride | 30 mmol, 1.27 g | [Cl-].[Li+]
reactant | sodium carbonate | 2.0 M, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
product | 3-(Piperidin-4-yl)-benzonitrile | 2.31 g | N1CCC(CC1)C=1C=C(C#N)C=CC1 | C12H14N2
